US05891621
Synthesis of UDP-N-acetylmuramic acid (UDPMurNAc)
UDPMurNAc was synthesized by a coupled MurA, MurB reaction consisting of 0.5 g (0.75 mmol) UDP-N-acetylglucosamine (Sigma), 0.38 g (0.85 mmol) phosphoenoyl-pyruvate tricyclohexylammonium salt (Sigma); 0.7 g (0.75 mmol) β-NADPH (Sigma) and 50 mM Bis-Tris-Propane pH 8.0. The reaction was run to completion at 42° C. for 3-4 hr in an inert atmosphere. UDPMurNAc was purified by a modification of the published procedure found in Jin, et al, "Structural Studies of Escherichia coli UDP-N-Acetylmuramate:L-Alanine Ligase," 35 Biochemistry, 1423-1431, (1996). The modified procedure was as follows. The reaction was ultrafiltrated using an Amicon equipped with a PM10 membrane to remove the enzymes. The reaction mixture was loaded onto a MonoQ column previously equilibrated with 10 mM triethylammonium bicarbonate buffer, pH 8.5. The column was developed with a linear gradient of triethylammonium bicarbonate from 10 to 600 mM. UDPMurNAc eluted at 150 mM concentration. Fractions were pooled and lyopholized to yielded a white solid. For the pathway assay, the solid was brought up to a concentration of typically 10 mM.

reactant | UDP-N-acetylglucosamine | 0.75 mmol, 0.5 g | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
reactant | β-NADPH | 0.75 mmol, 0.7 g | C1C=CN(C=C1C(=O)N)C2C(C(C(O2)COP(=O)([O-])OP(=O)([O-])OCC3C(C(C(O3)N4C=NC5=C4N=CN=C5N)OP(=O)([O-])[O-])O)O)O.[Na+].[Na+].[Na+].[Na+]
reactant | Bis-Tris Propane | 50 mM, pH 8.0 | C(CO)N(CCO)C(CO)(CO)CO.CCC
product | UDP-N-acetylmuramic acid | C[C@H](C(=O)O)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1O)CO)OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)NC(=O)C | C20H31N3O19P2
